US09303007B2
HATU (411 mg, 1.082 mmol) was added to a solution of a TFA salt of (1R,3S,5R)-3-(4-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane (525 mg, 0.902 mmol) and (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (190 mg, 1.08 mmol) in DMF (10 mL) and DIPEA (0.79 mL, 4.5 mmol) and the reaction was stirred at rt for 4 h. The reaction was diluted with EtOAc (˜80 mL) and washed with sat. aq. NaHCO3, water (30 mL) and brine (30 mL). The organics were then dried (MgSO4), filtered and concentrated to a brown oil (625 mg). This material was purified on a BIOTAGE® Horizon (40 g SiO2, 40-80% EtOAc/hexanes) to yield methyl (S)-1-((1R,3S,5R)-3-(4-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate (412 mg) as a yellow glass. LC-MS retention time 1.843 min; m/z 511.24, 513.12 (1:1) (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 1.0 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | HATU | 1.082 mmol, 411 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1R,3S,5R)-3-(4-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | 0.902 mmol, 525 mg | BrC=1C=C2C=CC(=CC2=CC1)C=1N=C(NC1)[C@H]1N[C@@H]2C[C@@H]2C1 | C18H16BrN3
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 1.08 mmol, 190 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | DIPEA | 4.5 mmol, 0.79 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | ˜80 mL | CCOC(=O)C | C4H8O2
product | methyl (S)-1-((1R,3S,5R)-3-(4-(6-bromonaphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 412 mg | BrC=1C=C2C=CC(=CC2=CC1)C=1N=C(NC1)[C@H]1N([C@@H]2C[C@@H]2C1)C([C@H](C(C)C)NC(OC)=O)=O | C25H27BrN4O3
